* DAY5_MANIFEST_SHA256=89f886ce2a150b84945a5378f29c2d4ee3faa5ef832876aeb122deb05e01391e
.lib "/foss/pdks/ciel/sky130/versions/026824c7969ce6f4fc9678e6ca04b0a06a596c4b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 27
.include "experiments/day5/generated/dut_first_stage_l2.spice"

VSSSUP VSS 0 0
VDD VDD VSS 1.8
IREF VBP VSS 1e-05
VINP VINP VSS DC 0.9 AC 0
VTEST VTEST VSS DC 0 AC 1
LBREAK VOUT VINN 1G
CBREAK VTEST VINN 1G
RLOAD VOUT VSS 100000
CLOAD VOUT VSS 5e-12
XOTA VDD VSS VINP VINN VOUT VBP OTA
.save all
.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
let ivdd_signed=i(VDD)
let idd=abs(ivdd_signed)
wrdata experiments/day5/raw/first_stage_l2_loop_op.tsv v(VOUT) v(XOTA.VX) v(XOTA.VBN) v(VBP) v(XOTA.TAIL) v(XOTA.NMIR) ivdd_signed idd
ac dec 120 1 1G
let tloop=-v(VOUT)/v(VINN)
let gain_db=db(tloop)
let phase_raw_deg=180/pi*ph(tloop)
wrdata experiments/day5/raw/first_stage_l2_loop.tsv gain_db phase_raw_deg
quit
.endc
.end
